### PR TITLE
define probability measure from fsdist

### PR DESCRIPTION
**Pull request by t6s**
Trying to connect fsdist to the probability theory in mathcomp-analysis.

### CODE REVIEW

File: probability/fsdist.v [hunk 1]
```diff
@@ -1133,3 +1133,164 @@ Qed.
...
+Section probability_measure.
+
+Section trivIset.
+Import boolp classical_sets.
+From mathcomp Require Import measure probability.
+Local Open Scope classical_set_scope.
+Context [T : Type] [I : eqType].
+Variables (D : set I) (F : I -> set T)
+          (disjF : trivIset D F).
+Definition fibration_of_partition (x : T) : option I :=
```
Comment (affeldt-aist) [inline probability/fsdist.v:1146]: This could maybe go to mathcomp-analysis?

File: probability/fsdist.v [hunk 2]
```diff
@@ -1133,3 +1133,164 @@ Qed.
...
+Qed.
+Lemma P_is_probability : P [set: _] = 1%E.
+Proof.
+rewrite P_fssum.
+rewrite fsbigop.fsbig_finite /=; last exact: finite_setIr.
+rewrite setTI set_fsetK.
+by rewrite sumEFin d1.
+Qed.
+HB.instance Definition _ :=
+  isProbability.Build disp T R P P_is_probability.
```
Comment (affeldt-aist) [inline probability/fsdist.v:1295]: This is just a remark. The definition of `probability` has been merged into the master of mathcomp-analysis, so that could maybe go to the next version of infotheo.
